US04557913
FIG. 1 is a schematic drawing depicting a portion of the flow of materials in the process of the present invention, showing the production of a sodium metaborate intermediate from a boron-containing solution, and reaction of the sodium metaborate intermediate with a boric acid intermediate to produce sodium tetraborate.

reactant | sodium metaborate | B(=O)[O-].[Na+]
reactant | boron | [B] | B
reactant | boric acid | B(O)(O)O | BH3O3
product | sodium tetraborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/4BO3.12Na/c4*2-1(3)4;;;;;;;;;;;;/q4*-3;12*+1
